US04992474
Methyl 5-[2-(dimethylamino)-1-hydroxyethyl]-2-(phenylmethoxy)benzoate
Dimethylamine (33% in ethanol, 156 ml) was added to a stirred suspension of methyl 5-(bromoacetyl)-2-(phenylmethoxy)benzoate (105.8 g) in absolute ethanol (1 l) and THF (1 l). The resulting solution was stirred at RT for 2 h, treated with NaBH4 (25 g) and stirred at RT overnight. The solvent was removed in vacuo and H2O (500 ml) was added to the residue. The mixture was extracted with EA (2×500 ml), the combined extracts were washed with H2O and BR, dried (Na2SO4) and concentrated in vacuo. The product was purified twice by [FCS] eluted with EA-methanol-triethylamine (80:20:1) to give the title compound as a fawn solid (59.8 g) m.p. 79°-81°.

reactant | Dimethylamine | 156 ml | CNC | C2H7N
reactant | methyl 5-(bromoacetyl)-2-(phenylmethoxy)benzoate | 105.8 g | BrCC(=O)C=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1 | C17H15BrO4
reactant | NaBH4 | 25 g | [BH4-].[Na+]
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | Methyl 5-[2-(dimethylamino)-1-hydroxyethyl]-2-(phenylmethoxy)benzoate | 59.8 g | CN(CC(O)C=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)C | C19H23NO4
